US06995268B2
N-Benzhydryloxyphthalimide
A solution of 1-chloro-1,1-diphenylmethane (3.42 g, 16.93 mmol), N-hydroxyphthalimide (2.30 g, 14.11 mmol) and Et3N (3.0 ml) in DMF (50 ml) was stirred at 60° C. under N2 for 8 hours. After the reaction mixture was cooled to room temperature, water (100 ml) was added. The mixture was extracted with Et2O. The combined organic phase was dried over Na2SO4. After evaporation of the solvent, the crude product was purified by chromatography(Hexane/Benzene/EtOAc=20/10/3) to give a white solid, 3.95 g (85% yield). 1H NMR (CD3Cl) δ 7.72-7.63 (1H, m), 7.56-7.53 (1H, m), 7.40-7.24 (12H, m), 5.85 (1H, s, Ph2CH).

reactant | 1-chloro-1,1-diphenylmethane | 16.93 mmol, 3.42 g | ClC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Cl
reactant | N-hydroxyphthalimide | 14.11 mmol, 2.30 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Et3N | 3.0 ml | CCN(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-Benzhydryloxyphthalimide | 85% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)ON1C(C=2C(C1=O)=CC=CC2)=O | C21H15NO3
